US06800651B2
N-(3-(α-Fluorobenzyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
To a solution of N-(3-(α-hydroxybenzyl)phenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine (0.106 g, 2.77 mmol) in DCM was added DAST (0.040 mL, 3.05 mmol). The reaction was stirred overnight and poured into saturated NaHCO3 solution and extracted with EtOAc, dried over MgSO4, filtered, and concentrated. The residue was chromatographed on silica gel with 2:1 DCM/EtOAc to give the title compound as a clear oil. 1H NMR: 8.47 (dd,J=4.9, 1.5 Hz, 1H), 8.33 (d,J=2.0 Hz, 1H), 7.63 (dt,J=7.8, 2.0 Hz, 1H), 7.38-7.28 (m,4H), 7.24-7.16 (m,6H), 4.89 (AofAB,d,J=14.8 Hz, 1H), 4.83 (BofABd,J=14.8 Hz, 1H), 3.07 (q,J=7.3 Hz, 2H), 1.40 (t,J=7.3 Hz, 3H). MS calcd. 384.1; MS (M+1) 385.1.

reactant | N-(3-(α-hydroxybenzyl)phenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine | 2.77 mmol, 0.106 g | OC(C1=CC=CC=C1)C=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C21H22N2O3S
reactant | DAST | 3.05 mmol, 0.040 mL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(3-(α-Fluorobenzyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | FC(C1=CC=CC=C1)C=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C21H21FN2O2S
